US08802665B2
(2S,4R)-4-(2-Chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(4-formylpiperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide
To a solution of (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide (35.4 mg, 70 μmol) and formic acid (5.37 μL, 140 μmol) in methylenehloride (0.7 mL) was added carbonyldiimidazole (23.4 mg, 140 μmol). The reaction was stirred at room temperature over night. The reaction was purified by column chromatography on silica gel using a gradient from methylenechloride to a mixture of methylenechloride/methanol (v:v 19:1) as solvent to yield the title compound as a white solid (25 mg, 67%). MS ISP (m/e): 534.2/536.3 (100/29) [(M+H)]+.

reactant | (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide | 70 μmol, 35.4 mg | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCNCC1)C(=O)NC1(CC1)C#N | C23H28ClN5O4S
reactant | formic acid | 140 μmol, 5.37 μL | C(=O)O | CH2O2
reactant | carbonyldiimidazole | 140 μmol, 23.4 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | (2S,4R)-4-(2-Chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(4-formylpiperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide | 25 mg, 67% | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCN(CC1)C=O)C(=O)NC1(CC1)C#N | C24H28ClN5O5S
